US07262212B2
A mixture of 1-benzyl-4-(4-trifluoromethylphenyl)piperidin-4-ol (692 mg, 2.06 mmol) prepared in Reference Example 95, concentrated hydrochloric acid (4.5 ml) and acetic acid (10 ml) was heated under reflux overnight. The reaction mixture was allowed to return to room temperature, and diluted with methylene chloride. The mixture was washed with water, 10% sodium hydroxide aqueous solution and brine, and dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/acetone=4/1) to afford 1-benzyl-4-(4-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine (528 mg, yield 80%) as a pale yellow crystalline powder.

reactant | 1-benzyl-4-(4-trifluoromethylphenyl)piperidin-4-ol | 2.06 mmol, 692 mg | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)C(F)(F)F | C19H20F3NO
reactant | hydrochloric acid | 4.5 ml | Cl | ClH
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-benzyl-4-(4-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine | 528 mg, yield 80% | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3N
